US07371747B2
Synthesis of trans-N-cyanomethyl-2-(4-methylsulfanylphenylsulfanylmethyl)-Cyclohexanecarboxamide
trans-2-Bromomethyl-cyclohexanecarboxylic acid cyanomethyl-amide (258 mg) and cesium carbonate (329 mg) were weighed into a 15 mL vial fitted with a stir bar and a vent cap. Acetone (3 mL) and 4-(methylsulfanyl)thiophenol (162 mg) were added. The reaction mixture was stirred at 50° C. overnight and then diluted with hot acetone (7 mL) and filtered through Celite™. The Celite™ was washed with hot acetone. The filtrate and wash were combined and the solvent was removed on a rotary evaporator. Chromatography of the crude product on a silica gel (using 9:1 dichloromethane: acetone as the eluent) provided the title compound as a white solid. 1H NMR (DMSO-d6): δ=8.63 (1H, t), 7.24 (2H, d), 7.18 (2H, d), 4.13 (2H, d), 2.97 (1H, dd), 2.58 (1H, m), 2.96 (3H, s), 2.1 (2H, m), 1.7 (4H, m), 1.2 (4H, m) MS [ESI, (M−H)−] m/z=332.8 amu

reactant | trans-2-Bromomethyl-cyclohexanecarboxylic acid cyanomethyl-amide | 258 mg | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CBr | C10H15BrN2O
reactant | cesium carbonate | 329 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(methylsulfanyl)thiophenol | 162 mg | CSC1=CC=C(C=C1)S | C7H8S2
solvent | acetone | 7 mL | CC(=O)C | C3H6O
solvent | Acetone | 3 mL | CC(=O)C | C3H6O
product | trans-N-cyanomethyl-2-(4-methylsulfanylphenylsulfanylmethyl)-Cyclohexanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CSC1=CC=C(C=C1)SC | C17H22N2OS2
